US05338740
B. 3-Bromo-6,7-dihydro-5H-[1]pyrindine N-Oxide
A solution of 3-bromo-6,7-dihydro-5H-[1]pyrindine (4 gm) and 3-chloroperoxybenzoic acid (2 equiv.) in CHCl3 was refluxed for 3 hours. An additional equivalent of 3-chloroperoxybenzoic acid was added to the reaction and heating was continued for another hour. The reaction was then cooled to 0° C., filtered, and extracted into CH2Cl2 from 1:1 saturated NaHCO3 /NaHCO3 (using caution), dried over Na2SO4, filtered, and evaporated. The residue was chromatographed on silica gel using 10:1 hexane/ethyl acetate to remove remaining starting material, ethyl acetate to remove 3-chloroperoxybenzoic acid residues, and then 10% MeOH/CH2Cl2 to elute the final compound. The product yield was 2 gm. 1H NMR(CDCl3): d 8.20 (s, 1 H), 7.25 (s, 1 H), 3.10 (m, 4 H), 2.20 (m, 2 H).

reactant | 3-bromo-6,7-dihydro-5H-[1]pyrindine | 4 gm | BrC=1C=NC=2CCCC2C1 | C8H8BrN
reactant | 3-chloroperoxybenzoic acid | 2 equiv. | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 3-Bromo-6,7-dihydro-5H-[1]pyrindine N-Oxide | BrC=1C=[N+](C=2CCCC2C1)[O-] | C8H8BrNO
